US07872031B2
A solution of 2,3-di(carboxymethyl)furan (35 mmol) in THF (400 mL) is cooled to 0° C. and treated with BH3.THF (174 mmol) over 10 minutes, and stirred for an additional 20 minutes at 0° C. before warming to room temperature overnight. The crude reaction is poured over saturated aqueous NaHCO3 and extracted with ethyl acetate. The organic layer is dried and concentrated to give 2,3-di(2-hydroxyethyl)furan.

reactant | 2,3-di(carboxymethyl)furan | 35 mmol | C(=O)(O)CC=1OC=CC1CC(=O)O | C8H8O5
reactant | BH3.THF | 174 mmol | B.C1CCOC1
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | THF | 400 mL | C1CCOC1 | C4H8O
product | 2,3-di(2-hydroxyethyl)furan | OCCC=1OC=CC1CCO | C8H12O3
